US09255094B2
A solution of (3-isopropylphenyl)hydrazine hydrochloride (5 g, 0.0267 mol) and 1-methyl-4-piperidone (3.3 mL, 0.0267 mol) in 7% sulfuric acid in dioxane (100 mL) was heated at 80° C. for 1 h. After completion, the reaction mixture was cooled to RT and the organic layer decanted. The residue was basified with 10% sodium hydroxide solution and extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure affording crude material, which was purified by silica gel column chromatography (6% MeOH:DCM) to yield 7-isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.1 g, 18% yield).

reactant | (3-isopropylphenyl)hydrazine hydrochloride | 0.0267 mol, 5 g | Cl.C(C)(C)C=1C=C(C=CC1)NN
reactant | 1-methyl-4-piperidone | 0.0267 mol, 3.3 mL | CN1CCC(CC1)=O | C6H11NO
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 7-isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.1 g, 18% yield | C(C)(C)C=1C=CC=2C3=C(NC2C1)CCN(C3)C | C15H20N2
